* Frozen netlist snapshot for record 20260802-061841-c24ee3a
* sources    : dut.spice + tb_cp_switch.spice (composed at record time, in this order)
* sha256     : d2ddc78d8b316610bce06407768bbc12ab9b3156d0f460910725bba5973d5f89 (of this composed text)
* This is a verbatim composition taken at record time. Do not edit.

* ---- sim/cp-compliance/work/dut-export/pfd_cp/dut.spice (sha256 97856cc146493ffc31f96be947c1fc4fe55a302205f1e5749a6a1ffdb6a3cef4)
** sch_path: design/dut_export.sch

* expanding   symbol:  pfd_cp.sym # of pins=13
** sym_path: design/pfd_cp.sym
** sch_path: design/pfd_cp.sch
.subckt pfd_cp REF FB B0 B1 IBN ICN IBP ICP VOUT UP DN VDD VSS
*.ipin REF
*.ipin FB
*.ipin B0
*.ipin B1
*.iopin IBN
*.iopin ICN
*.iopin IBP
*.iopin ICP
*.iopin VOUT
*.opin UP
*.opin DN
*.iopin VDD
*.iopin VSS
xpfd REF FB UP DN VDD VSS pfd
xcp UP DN B0 B1 IBN ICN IBP ICP VOUT VDD VSS cp
.ends


* expanding   symbol:  pfd.sym # of pins=6
** sym_path: design/pfd.sym
** sch_path: design/pfd.sch
.subckt pfd REF FB UP DN VDD VSS
*.ipin REF
*.ipin FB
*.opin UP
*.opin DN
*.iopin VDD
*.iopin VSS
xed_ref REF PR VDD VSS edgedet
xed_fb FB PF VDD VSS edgedet
xinv_sr PR SBR VDD VSS pfdcp_inv_3v3
xinv_sf PF SBF VDD VSS pfdcp_inv_3v3
xlat_ref SBR RB UP UPB VDD VSS srlatch
xlat_fb SBF RB DN DNB VDD VSS srlatch
xnand_rst UP DN NRST VDD VSS pfdcp_nand2_3v3
xinv_r0 NRST RST_RAW VDD VSS pfdcp_inv_3v3
xd1 RST_RAW RD1 VDD VSS pfdcp_inv_3v3
xd2 RD1 RD2 VDD VSS pfdcp_inv_3v3
xd3 RD2 RD3 VDD VSS pfdcp_inv_3v3
xd4 RD3 RD4 VDD VSS pfdcp_inv_3v3
xd5 RD4 RD5 VDD VSS pfdcp_inv_3v3
xd6 RD5 RD6 VDD VSS pfdcp_inv_3v3
xd7 RD6 RD7 VDD VSS pfdcp_inv_3v3
xd8 RD7 RD8 VDD VSS pfdcp_inv_3v3
xd9 RD8 RD9 VDD VSS pfdcp_inv_3v3
xd10 RD9 RD10 VDD VSS pfdcp_inv_3v3
xd11 RD10 RD11 VDD VSS pfdcp_inv_3v3
xd12 RD11 RD12 VDD VSS pfdcp_inv_3v3
xd13 RD12 RD13 VDD VSS pfdcp_inv_3v3
xd14 RD13 RD14 VDD VSS pfdcp_inv_3v3
xd15 RD14 RD15 VDD VSS pfdcp_inv_3v3
xd16 RD15 RD16 VDD VSS pfdcp_inv_3v3
xd17 RD16 RD17 VDD VSS pfdcp_inv_3v3
xd18 RD17 RD18 VDD VSS pfdcp_inv_3v3
xd19 RD18 RD19 VDD VSS pfdcp_inv_3v3
xd20 RD19 RD20 VDD VSS pfdcp_inv_3v3
xd21 RD20 RD21 VDD VSS pfdcp_inv_3v3
xd22 RD21 RD22 VDD VSS pfdcp_inv_3v3
xd23 RD22 RD23 VDD VSS pfdcp_inv_3v3
xd24 RD23 RST_DLY VDD VSS pfdcp_inv_3v3
xinv_rb RST_DLY RB VDD VSS pfdcp_inv_3v3
.ends


* expanding   symbol:  cp.sym # of pins=11
** sym_path: design/cp.sym
** sch_path: design/cp.sch
.subckt cp UP DN B0 B1 IBN ICN IBP ICP VOUT VDD VSS
*.ipin UP
*.ipin DN
*.ipin B0
*.ipin B1
*.iopin IBN
*.iopin ICN
*.iopin IBP
*.iopin ICP
*.iopin VOUT
*.iopin VDD
*.iopin VSS
XMBN IBN IBN VSS VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCN ICN ICN VSS VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP IBP IBP VDD VDD pfet_03v3 L=1u W=48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCP ICP ICP VDD VDD pfet_03v3 L=1u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
xi_b0 B0 B0B VDD VSS pfdcp_inv_3v3
xi_b1 B1 B1B VDD VSS pfdcp_inv_3v3
xi_up UP UPB VDD VSS pfdcp_inv_3v3
xi_dn DN DNB VDD VSS pfdcp_inv_3v3
xn_base IBN ICN VDD VSS DNT VSS cp_leg_n
xn_t0 IBN ICN B0 B0B DNT VSS cp_leg_n
xn_t1a IBN ICN B1 B1B DNT VSS cp_leg_n
xn_t1b IBN ICN B1 B1B DNT VSS cp_leg_n
xp_base IBP ICP VDD VSS UPT VDD cp_leg_p
xp_t0 IBP ICP B0 B0B UPT VDD cp_leg_p
xp_t1a IBP ICP B1 B1B UPT VDD cp_leg_p
xp_t1b IBP ICP B1 B1B UPT VDD cp_leg_p
XMSWDN VOUT DN DNT VSS nfet_03v3 L=0.3u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDMPDN VDUMP DNB DNT VSS nfet_03v3 L=0.3u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSWUP VOUT UPB UPT VDD pfet_03v3 L=0.3u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDMPUP VDUMP UP UPT VDD pfet_03v3 L=0.3u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDUMN VOUT DNB VOUT VSS nfet_03v3 L=0.3u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDUMP VOUT UP VOUT VDD pfet_03v3 L=0.3u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
xbuf VOUT IBN IBP VDUMP VDD VSS cp_dumpbuf
.ends


* expanding   symbol:  edgedet.sym # of pins=4
** sym_path: design/edgedet.sym
** sch_path: design/edgedet.sch
.subckt edgedet X PULSE VDD VSS
*.ipin X
*.opin PULSE
*.iopin VDD
*.iopin VSS
xi1 X D1 VDD VSS pfdcp_inv_3v3
xi2 D1 D2 VDD VSS pfdcp_inv_3v3
xi3 D2 D3 VDD VSS pfdcp_inv_3v3
xi4 D3 D4 VDD VSS pfdcp_inv_3v3
xi5 D4 D5 VDD VSS pfdcp_inv_3v3
xnd X D5 NN VDD VSS pfdcp_nand2_3v3
xi6 NN PULSE VDD VSS pfdcp_inv_3v3
.ends


* expanding   symbol:  pfdcp_inv_3v3.sym # of pins=4
** sym_path: design/pfdcp_inv_3v3.sym
** sch_path: design/pfdcp_inv_3v3.sch
.subckt pfdcp_inv_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD pfet_03v3 L=0.3u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN Y A VSS VSS nfet_03v3 L=0.3u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  srlatch.sym # of pins=6
** sym_path: design/srlatch.sym
** sch_path: design/srlatch.sch
.subckt srlatch SB RB Q QB VDD VSS
*.ipin SB
*.ipin RB
*.opin Q
*.opin QB
*.iopin VDD
*.iopin VSS
xn1 SB QB Q VDD VSS pfdcp_nand2_3v3
xn2 RB Q QB VDD VSS pfdcp_nand2_3v3
.ends


* expanding   symbol:  pfdcp_nand2_3v3.sym # of pins=5
** sym_path: design/pfdcp_nand2_3v3.sym
** sch_path: design/pfdcp_nand2_3v3.sch
.subckt pfdcp_nand2_3v3 A B Y VDD VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XMP1 Y A VDD VDD pfet_03v3 L=0.3u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 Y B VDD VDD pfet_03v3 L=0.3u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN1 Y A NI VSS nfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN2 NI B VSS VSS nfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  cp_leg_n.sym # of pins=6
** sym_path: design/cp_leg_n.sym
** sch_path: design/cp_leg_n.sch
.subckt cp_leg_n VBN VCASCN EN ENB TAIL VSS
*.ipin VBN
*.ipin VCASCN
*.ipin EN
*.ipin ENB
*.iopin TAIL
*.iopin VSS
XMEN BG EN VBN VSS nfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDIS BG ENB VSS VSS nfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBOT MID BG VSS VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCASC TAIL VCASCN MID VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  cp_leg_p.sym # of pins=6
** sym_path: design/cp_leg_p.sym
** sch_path: design/cp_leg_p.sch
.subckt cp_leg_p VBP VCASCP EN ENB TAIL VDD
*.ipin VBP
*.ipin VCASCP
*.ipin EN
*.ipin ENB
*.iopin TAIL
*.iopin VDD
XMEN BG ENB VBP VDD pfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDIS BG EN VDD VDD pfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMTOP MID BG VDD VDD pfet_03v3 L=1u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCASC TAIL VCASCP MID VDD pfet_03v3 L=1u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  cp_dumpbuf.sym # of pins=6
** sym_path: design/cp_dumpbuf.sym
** sch_path: design/cp_dumpbuf.sch
.subckt cp_dumpbuf VREF VBN VBP VDUMP VDD VSS
*.ipin VREF
*.ipin VBN
*.ipin VBP
*.iopin VDUMP
*.iopin VDD
*.iopin VSS
XMTN NSRC VBN VSS VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN1 NDA VREF NSRC VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN2 VDUMP VDUMP NSRC VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN3 NDA NDA VDD VDD pfet_03v3 L=1u W=24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN4 VDUMP NDA VDD VDD pfet_03v3 L=1u W=24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMTP PSRC VBP VDD VDD pfet_03v3 L=1u W=48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP1 PDA VREF PSRC PSRC pfet_03v3 L=1u W=48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 VDUMP VDUMP PSRC PSRC pfet_03v3 L=1u W=48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP3 PDA PDA VSS VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP4 VDUMP PDA VSS VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

* ---- sim/cp-compliance/testbench-switching/tb_cp_switch.spice (sha256 1012a32fe9c3f14e08d9b95c824cf31ae912b90796698c83cb2f9908feb422e4)
* gf180-pll :: cp-compliance :: UP/DN switching timing mismatch (transient)
*
* sim/harness fragment.  The DUT (`cp`, reached through the `pfd_cp`
* hierarchy) is NOT in this file: the manifest's `dut_export` block has
* design/netlist.sh export the xschem hierarchy once per record and the
* harness `.include`s it ahead of this fragment.
*
* Companion to `../testbench/tb_cp_dc.spice`: that deck measures the DC current
* mismatch and compliance, this one measures what the DC sweep cannot -- how
* much of each polarity's current actually reaches the control node during a
* pulse of finite width, and how far apart the two polarities are in time.
* Both write into the same `sim/cp-compliance/` experiment directory, because
* they substantiate one claim.
*
* Two instances are driven from the SAME control edge, one hardwired to
* exercise only the UP (source) branch and one only the DN (sink) branch, each
* into its own control node held at `vctrl` by an ideal source.  Sharing the
* stimulus edge is the point: any measured UP-vs-DN difference is then the
* charge pump's own asymmetry, with no stimulus skew mixed in.
*
* Reported per polarity:
*   i_ss      steady-state current, late in the pulse (the DC value the switch
*             eventually delivers)
*   ton/toff  50%-of-i_ss crossing, referenced to the 50% control edge
*   q         total charge delivered to the control node over the pulse,
*             INCLUDING the tail-node charge-sharing transient at switch-on
*   w_eff     q / i_ss -- the effective pulse width the loop actually sees
* The headline number is the difference of the two w_eff values: an effective
* UP/DN TIMING mismatch in seconds, which is exactly the quantity that turns
* charge-pump asymmetry into static phase error (and hence reference spurs).
*
* Expects from the harness header:
*   .lib <process corner bundle>, .temp <temp_c>
*   .param vdd_val=<supply volts>  (also vdd_nom, temp_c)
*   .param iunit, b0_code, b1_code          (manifest `params`)
*   .param vctrl=<control-node voltage>     (the `x` sweep axis)

* `vmid` is needed as a control-block value (the 50 % control-edge threshold
* the turn-on/turn-off searches trigger on), and `.control` cannot see a
* `.param`.  `.csparam` is the bridge, exactly as in the pre-migration deck.
.csparam vsup_c={vdd_val}

*------------------------------------------------------------------ supplies
vdd vdd 0 dc 'vdd_val'
vss vss 0 dc 0
vhi hi 0 dc 'vdd_val'
vlo lo 0 dc 0
vb0 b0 0 dc 'vdd_val*b0_code'
vb1 b1 0 dc 'vdd_val*b1_code'

* Control edge, shared by both instances.  5 ns asserted -- several times the
* PFD's own reset-delay pulse width, so the steady-state current is reached
* well before the pulse ends and can be separated from the switching
* transient.  200 ps edges, as in tb_pfd_deadzone.spice.
vctl ctl 0 pulse(0 'vdd_val' 10n 200p 200p 5n 100n)

*---------------------------------------------------------- UP-only instance
xcpu ctl lo b0 b1 ibn_u icn_u ibp_u icp_u outu vdd vss cp
iibn_u vdd ibn_u dc 'iunit'
iicn_u vdd icn_u dc 'iunit'
iibp_u ibp_u 0 dc 'iunit'
iicp_u icp_u 0 dc 'iunit'
* Control node held at vctrl; i(vou) > 0 when the pump SOURCES into it.
vou outu 0 dc 'vctrl'

*---------------------------------------------------------- DN-only instance
xcpd lo ctl b0 b1 ibn_d icn_d ibp_d icp_d outd vdd vss cp
iibn_d vdd ibn_d dc 'iunit'
iicn_d vdd icn_d dc 'iunit'
iibp_d ibp_d 0 dc 'iunit'
iicp_d icp_d 0 dc 'iunit'
* i(vod) < 0 when the pump SINKS from it.
vod outd 0 dc 'vctrl'
